US04210660
To 80 ml of ethanol solution containing 16 g of 1-benzyl-2-methyl-3-pyrrolidone was added 80 ml of aqueous solution containing 13 g of hydroxylamine hydrochloride. After adding 18 g of sodium carbonate to the solution, the mixture was warmed to 35°-40° C. for 30 minutes. The reaction mixture was condensed under reduced pressure to half volume, and the product was extracted twice each time with 80 ml of ether. The extracts were combined and dried over anhydrous magnesium sulfate. The extracts were condensed under reduced pressure to provide 11 g of oily crude 1-benzyl-3-hydroxyimino-2-methylpyrrolidine.

reactant | 1-benzyl-2-methyl-3-pyrrolidone | 16 g | C(C1=CC=CC=C1)N1C(C(CC1)=O)C | C12H15NO
reactant | hydroxylamine hydrochloride | 13 g | Cl.NO
reactant | sodium carbonate | 18 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 1-benzyl-3-hydroxyimino-2-methylpyrrolidine | 11 g | C(C1=CC=CC=C1)N1C(C(CC1)=NO)C | C12H16N2O
